US07335658B2
SYNTHESIS of 6-(4-BENZYLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
A stirred mixture of 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide (0.113 g, 0.5 mmol), 1-benzylpiperazine (90 mg, 0.5 mmol), tetrabutylammonium bromide (27 mg, 0.084 mmol) and 1,8-diazabicylco[5.4.0]undec-7-ene (152 mg, 1.0 mmol) was heated under reflux in dioxane (10 mL) overnight. The solvent was evaporated. Residue was treated with 2% methanol in water (25 mL). The solid, which precipitated, was filtered off and dried in vacuo to give 138 mg (0.376 mmol) of the title compound in 75% yield. 1H NMR (300 MHz, CDCl3) δ 7.98, 7.87, 7.36-7.32, 6.94, 3.76-3.74, 3.57, 3.50-3.46, 2.60-2.58, 1.74-1.68, 1.52-1.48, 0.94. MS (ES+) m/z 368.2 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.5 mmol, 0.113 g | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
reactant | 1-benzylpiperazine | 0.5 mmol, 90 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1,8-diazabicylco[5.4.0]undec-7-ene | 1.0 mmol, 152 mg | N12CCCCCC2=NCCC1 | C9H16N2
catalyst | tetrabutylammonium bromide | 0.084 mmol, 27 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-(4-BENZYLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 0.376 mmol, 138 mg, 75% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=CC=CC=C1)C | C21H29N5O
